US07544690B2
To a solution of 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (60 mg, 0.28 mmol) and diisopropylethylamine (49 mL, 0.28 mmol) in CH2Cl2 (2 mL) was added 2-fluorobenzenesulfonyl chloride (54 mg, 0.28 mmol) and the mixture was stirred at ambient temperature for 18 hr. To the resulting mixture was added trifluoroacetic acid (0.70 mL) and stirred at ambient temperature for 18 hr. The reaction mixture was concentrated and neutralized with saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc, and the organic layer was concentrated to give 2-fluoro-N-piperidin-4-ylmethyl-benzenesulfonamide as a pale yellow solid. To a solution of above solid (0.076 g, 0.28 mmol) and diisopropylethylamine (0.072 mL, 0.42 mmol) in 2-propanol (3 mL) was added (2-chloro-quinazolin-4-yl)-dimethyl-amine obtained in step B of example 1 (0.044 g, 0.21 mmol) and the resulting mixture was stirred at 100° C. for 18 hr. The mixture was concentrated, and the residue was purified by column chromatography (silica gel, 5% MeOH in CH2Cl2) to give N-[1-(4-dimethylamino-quinazolin-2-yl)-piperidin-4-ylmethyl]-2-fluoro-benzenesulfonamide as a pale yellow solid (0.024 g, 26%).

reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.28 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | diisopropylethylamine | 0.28 mmol, 49 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-fluorobenzenesulfonyl chloride | 0.28 mmol, 54 mg | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | trifluoroacetic acid | 0.70 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-N-piperidin-4-ylmethyl-benzenesulfonamide | FC1=C(C=CC=C1)S(=O)(=O)NCC1CCNCC1 | C12H17FN2O2S
